US08357693B2
To a suspension of 2-(3-(benzyloxy)phenyl)-7-methoxy-6-(2-methoxyethoxy)quinazolin-4(3H)-one (3.28 g, 7.58 mmol) in CH2Cl2 (100 mL) was added oxalyl chloride (2.20 mL, 24.8 mmol) and 2 drops of DMF. The mixture was stirred at RT for 6 h. An additional aliquot of oxalyl chloride (1.20 mL, 13.5 mmol) was added. Stirring was continued at RT overnight, upon which the mixture was concentrated in vacuo, taken up in CHCl3 (100 mL) and washed with sat. NaHCO3 (3×50 mL), water (2×50 mL) and brine (1×50 mL). The organic layer was dried (Na2SO4), filtered and concentrated in vacuo to give 2-(3-(benzyloxy)phenyl)-4-chloro-7-methoxy-6-(2-methoxyethoxy)quinazoline (1.52 g, 3.37 mmol, 45%). MS 451 (M+1 Cl isotope pattern). HPLC retention time 10.84 mins. (10-95-13 method).

reactant | 2-(3-(benzyloxy)phenyl)-7-methoxy-6-(2-methoxyethoxy)quinazolin-4(3H)-one | 7.58 mmol, 3.28 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1=NC2=CC(=C(C=C2C(N1)=O)OCCOC)OC | C25H24N2O5
reactant | oxalyl chloride | 24.8 mmol, 2.20 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | oxalyl chloride | 13.5 mmol, 1.20 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
product | 2-(3-(benzyloxy)phenyl)-4-chloro-7-methoxy-6-(2-methoxyethoxy)quinazoline | 3.37 mmol, 1.52 g, 45% | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1=NC2=CC(=C(C=C2C(=N1)Cl)OCCOC)OC | C25H23ClN2O4
